US07737166B2
7-Fluoro-2-(1-fluoro-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-312)
Under nitrogen atmosphere, diethylaminosulfur trifluoride (293 μl, 2.24 mmol) was dropwise added at 0° C. to a dichloromethane (5 ml) solution of 7-fluoro-2-(1-hydroxy-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile (I-112) (139 mg, 448 μmol), followed by stirring at room temperature for 14 hours. At 0° C., an aqueous saturated sodium hydrogencarbonate solution was added to the reaction liquid, then the mixture liquid was extracted with chloroform. Next, the combined organic layer was dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by middle-pressure liquid chromatography (eluent, n-hexane:ethyl acetate=5:1, v/v) to obtain the entitled compound (134 mg, 96%) as a pale yellow solid.

reactant | diethylaminosulfur trifluoride | 2.24 mmol, 293 μl | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | 7-fluoro-2-(1-hydroxy-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 448 μmol, 139 mg | FC=1C(=C(C(=C2N=C(OC21)C(C)(C)O)C#N)C)C2=CC=CC=C2 | C18H15FN2O2
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 7-Fluoro-2-(1-fluoro-1-methylethyl)-5-methyl-6-phenyl-1,3-benzoxazole-4-carbonitrile | 134 mg, 96% | FC=1C(=C(C(=C2N=C(OC21)C(C)(C)F)C#N)C)C2=CC=CC=C2 | C18H14F2N2O
